US09079911B2
2-Bromo-3-fluorobenzonitrile (1.0 g, 5.0 mmol) and (1H-pyrazol-5-yl)boronic acid (647 mg, 4.6 mmol) were combined and dissolved in degassed DME (15 mL) then treated with NaHCO3 (1260 mg, 8.4 mmol) in water and the reaction purged with bubbling N2 for 5 minutes. The reaction was treated with Pd(PPh3)4 (288 mg, 0.2 mmol) and then purged with bubbling for 5 minutes in a sealed vessel and then heated to reflux for 2 h. The reaction was then cooled to 23° C. filtered and the solids were rinsed with EtOAc and the layers separated. The organic layers were combined, dried and concentrated under reduced pressure. Chromatography (0-30% ethyl acetate/hexanes) afforded 3-fluoro-2-(1H-pyrazol-5-yl)benzonitrile (178 mg, 19%).

reactant | 2-Bromo-3-fluorobenzonitrile | 5.0 mmol, 1.0 g | BrC1=C(C#N)C=CC=C1F | C7H3BrFN
reactant | (1H-pyrazol-5-yl)boronic acid | 4.6 mmol, 647 mg | N1N=CC=C1B(O)O | C3H5BN2O2
reactant | NaHCO3 | 8.4 mmol, 1260 mg | C(=O)(O)[O-].[Na+]
solvent | DME | 15 mL | COCCOC | C4H10O2
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.2 mmol, 288 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3-fluoro-2-(1H-pyrazol-5-yl)benzonitrile | 178 mg, 19% | FC=1C(=C(C#N)C=CC1)C1=CC=NN1 | C10H6FN3
